US06140501
1 g (0.00348 mol) of tert-butyl 4-(2-carbamoylmethoxyethyl)piperazine-1-carboxylate prepared in Example I.4.3. and 2 ml of water are placed in a 10 ml conical flask. 2 ml of 37% hydrochloric acid solution are added and the mixture is heated on an oil bath at 60° C. for 1 hour. The water is eliminated on a rotary evaporator under reduced pressure. The residue is taken up in toluene. After evaporation, 1.1 g of a pale yellow solid are obtained. This finely ground solid is placed in a Buchi sublimator. The apparatus is placed under vacuum (0.3 mmHg) and heated at 150° C. for 8 hours. 800 mg (88%) of 2-(1-piperazinyl)ethoxyacetic acid dihydrochloride are obtained in the form of white crystals.

reactant | tert-butyl 4-(2-carbamoylmethoxyethyl)piperazine-1-carboxylate | 0.00348 mol, 1 g | C(N)(=O)COCCN1CCN(CC1)C(=O)OC(C)(C)C | C13H25N3O4
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | water | 2 ml | O | H2O
product | 2-(1-piperazinyl)ethoxyacetic acid dihydrochloride | 800 mg, 88% | Cl.Cl.N1(CCNCC1)CCOCC(=O)O | InChI=1S/C8H16N2O3.2ClH/c11-8(12)7-13-6-5-10-3-1-9-2-4-10;;/h9H,1-7H2,(H,11,12);2*1H
